US08431695B2
Preparation of 4-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-2-methoxy-phenol
Using a procedure similar to that of Example 4 with 4-(4-Amino-5-bromo-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-2-methoxy-phenol and 2-benzyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole as starting materials, 21.5 mg (9%) of the desired product was isolated. 1H NMR (300 MHz, DMSO-d6) δ 8.80 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 3.80 (s, 3 H); ES-MS m/z 463.49 [M+H]+, HPLC RT (min) 2.99.

reactant | 4-(4-Amino-5-bromo-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-2-methoxy-phenol | NC1=NC=NN2C1=C(C=C2C2=CC(=C(C=C2)O)OC)Br | C13H11BrN4O2
reactant | 2-benzyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)B1OC(C(O1)(C)C)(C)C | C20H23BN2O2
product | 4-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-2-methoxy-phenol | 21.5 mg, 9% | NC1=NC=NN2C1=C(C=C2C2=CC(=C(C=C2)O)OC)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H22N6O2
